US04278590
5-Chloro-2-(2-hydroxy-3,5-di-tert-octylphenyl)-2H-benzotriazole
When, using the general procedure of Example 2, the amount of 4-chloro-2-nitro-2'-hydroxy-3',5'-di-tert-octylazobenzene was substituted for 2-nitro-2'-hydroxy-3',5'-di-tert-octylazobenzene, the above-named compound was prepared in a yield of 71.8% as pale yellow crystals melting at 121°-122° C. (Compound 2)

reactant | 4-chloro-2-nitro-2'-hydroxy-3',5'-di-tert-octylazobenzene | ClC1=CC(=C(C=C1)N=NC1=C(C(=CC(=C1)C(C)(C)CC(C)(C)C)C(C)(C)CC(C)(C)C)O)[N+](=O)[O-] | C28H40ClN3O3
reactant | 2-nitro-2'-hydroxy-3',5'-di-tert-octylazobenzene | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C(=CC(=C1)C(C)(C)CC(C)(C)C)C(C)(C)CC(C)(C)C)O | C28H41N3O3
product | 5-Chloro-2-(2-hydroxy-3,5-di-tert-octylphenyl)-2H-benzotriazole | yield of 71.8% | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C(C)(C)CC(C)(C)C)C(C)(C)CC(C)(C)C)O)C=C1 | C28H40ClN3O
